US08378095B2
To a stirred solution of (carbethoxymethylene)triphenylphosphorane (0.500 g, 1.44 mmol) in DCM (7 ml) under an N2 atmosphere was added N,O-bis(trimethylsilyl)acetamide (0.42 ml, 1.7 mmol). The solution was then cooled to 0° C. and p-anisoylchloride (0.250 g, 1.47 mmol) was added. The reaction mixture was then gradually warmed to room temperature and stirred overnight. The reaction was quenched by the addition of H2O (3 ml) and the aqueous phase was extracted with DCM. The combined organic phases were dried over MgSO4 and the solvent removed in vacuo to afford ethyl 3-(4-methoxyphenyl)-3-oxo-2-(triphenylphosphoranylidene)propionate. (0.637 g, 1.32 mmol, 92%) as an off white solid which was used without further purification. 1H NMR (CDCl3) δ 0.62 (3H, t), 3.69 (2H, q), 3.82 (3H, s), 6.86 (2H, d), 7.43-7.55 (9H, m), 7.71-7.80 (8H, m). LCMS (2) Rt: 3.65 min; m/z 483.

reactant | (carbethoxymethylene)triphenylphosphorane | 1.44 mmol, 0.500 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | N,O-bis(trimethylsilyl)acetamide | 1.7 mmol, 0.42 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | p-anisoylchloride | 1.47 mmol, 0.250 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-(4-methoxyphenyl)-3-oxo-2-(triphenylphosphoranylidene)propionate | COC1=CC=C(C=C1)C(C(C(=O)OCC)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H27O4P
